US07829560B2
N-[4-(2-Morpholin-4-yl-ethoxy)-naphthalen-1-yl]-3-pyridin-4-yl-benzamide (Compound B86).
Compound is prepared from 3-bromo-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-benzamide and pyridyl-4-boronic acid according to conditions described in general procedure K. 1H NMR 300 MHz (DMSO-d6) δ 10.4 (s, 1H), 8.7 (d, 2H), 8.5 (s, 1H), 8.22 (m, 1H), 8.15 (d, 1H), 8.05 (d, 1H), 7.9 (m, 1H), 7.85 (d, 2H), 7.7 (t, 1H), 7.5 (m, 2H), 7.45 (d, 1H), 7.0 (d, 1H), 4.3 (t, 2H), 3.6 (m, 4H), 2.9 (t, 2H), 2.55 (m, 4H).

reactant | 3-bromo-N-[4-(2-morpholin-4-yl-ethoxy)-naphthalen-1-yl]-benzamide | BrC=1C=C(C(=O)NC2=CC=C(C3=CC=CC=C23)OCCN2CCOCC2)C=CC1 | C23H23BrN2O3
reactant | pyridyl-4-boronic acid | B(C1=CC=NC=C1)(O)O | C5H6BNO2
product | N-[4-(2-Morpholin-4-yl-ethoxy)-naphthalen-1-yl]-3-pyridin-4-yl-benzamide | N1(CCOCC1)CCOC1=CC=C(C2=CC=CC=C12)NC(C1=CC(=CC=C1)C1=CC=NC=C1)=O | C28H27N3O3
